US08039460B2
Step F: (6S,9R)-6-(2,3-Difluorophenyl)-3-methyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-9-amine
Hydrochloric acid (4.0 M in dioxane; 3.0 mL, 12.0 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-methyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-9-yl]carbamate (33 mg, 0.087 mmol) in dichloromethane (3 mL). After 2 h, the reaction mixture was concentrated to give the hydrochloride salt of the title compound. MS 278.1 (M+1).

reactant | Hydrochloric acid | 12.0 mmol, 4.0 M, 3.0 mL | Cl | ClH
reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-methyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-9-yl]carbamate | 0.087 mmol, 33 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NC2)C)NC(OC(C)(C)C)=O | C20H25F2N3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (6S,9R)-6-(2,3-Difluorophenyl)-3-methyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepin-9-amine | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NC2)C)N | C15H17F2N3
